US07179812B2
5-(4-[1,2,3]Triazol-1-yl-but-1-ynyl)-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine (0.047 g, 0.1 mmol) is dissolved in ethyl acetate (3 ml) and hydrogenated for 1 h at r.t. in the presence of palladium on charcoal (10%, 20 mg). After filtration and concentration in vacuo the crude product is purified by flash column chromatography (ethyl acetate/hexanes 1:3->ethyl acetate (100%)) yielding 5-(4-[1,2,3]-triazol-1-yl-butyl)-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine as a white solid. Yield 35 mg (74%)

reactant | 5-(4-[1,2,3]Triazol-1-yl-but-1-ynyl)-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine | 0.1 mmol, 0.047 g | N1(N=NC=C1)CCC#CC=1C=NC(=NC1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C23H17F3N6O2
solvent | ethyl acetate | 3 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 20 mg | [Pd] | Pd
product | 5-(4-[1,2,3]-triazol-1-yl-butyl)-2-{2-[2-(4-trifluoromethyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-pyrimidine | N1(N=NC=C1)CCCCC=1C=NC(=NC1)OCC=1N=C(OC1)C=CC1=CC=C(C=C1)C(F)(F)F | C23H21F3N6O2
